US05929085
(c) 7-Amino-2-ethyl-2,3,4,5-tetrahydro-1,4-benzoxazapine hydrochloride
7-Nitro-2-ethyl-2,3,4,5-tetrahydro-1,4-benzoxazapine hydrochloride (3.4 g, 13.1 mmol) was dissolved in methanol (100 ml) and hydrogenated at 50 psi in the presence of a catalytic quantity of 10% Pd--C. After 1 h the mixture was filtered through glass and evaporated to an oil which was used immediately in the next reaction.

reactant | 7-Nitro-2-ethyl-2,3,4,5-tetrahydro-1,4-benzoxazapine hydrochloride | 13.1 mmol, 3.4 g | Cl.[N+](=O)([O-])C=1C=CC2=C(CNCC(O2)CC)C1
solvent | methanol | 100 ml | CO | CH4O
product | 7-Amino-2-ethyl-2,3,4,5-tetrahydro-1,4-benzoxazapine hydrochloride | Cl.NC=1C=CC2=C(CNCC(O2)CC)C1 | InChI=1S/C11H16N2O.ClH/c1-2-10-7-13-6-8-5-9(12)3-4-11(8)14-10;/h3-5,10,13H,2,6-7,12H2,1H3;1H
